US05731432
A mixture of 1.0 mmol of ethyl 3-bromo-4-methylbenzoate, 1.0 mmol NBS, and 0.02 mmol benzoyl peroxide in 5 mL CCl4 was refluxed for 4 h and then processed by filtration and chromatography to provide ethyl 3-bromo-4-bromomethylbenzoate as an oil.

reactant | ethyl 3-bromo-4-methylbenzoate | 1.0 mmol | BrC=1C=C(C(=O)OCC)C=CC1C | C10H11BrO2
reactant | NBS | 1.0 mmol | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.02 mmol | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 3-bromo-4-bromomethylbenzoate | BrC=1C=C(C(=O)OCC)C=CC1CBr | C10H10Br2O2
